US08835472B2
N-{1-Methyl-2-[4-(4-propoxy-phenylethynyl)-phenyl]-ethyl}-acetamide
To 0.33 g (1.00 mmol) trifluoromethanesulfonic acid 4-(2-acetylamino-propyl)-phenyl ester (I53.2) and 0.18 g (1.10 mmol) 1-ethynyl-4-propoxybenzene in 3 mL DMF and 0.60 mL (4.50 mmol) TEA are added 0.04 g (0.06 mmol) bis-(triphenylphosphin)-palladiumdichlorid. The mixture is stirred in a sealed tube at 80° C. for 24 h. The reaction mixture is partitioned between EtOAc and water, the organic layer is dried with Na2SO4 and the solvent is removed in vacuo. The residue is purified by column chromatographie (silica gel, DCM/EtOAc 1/1). The resulting product is triturated with diethylether and dried at 80° C. in vacuo.

reactant | trifluoromethanesulfonic acid 4-(2-acetylamino-propyl)-phenyl ester | 1.00 mmol, 0.33 g | C(C)(=O)NC(CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C12H14F3NO4S
reactant | 1-ethynyl-4-propoxybenzene | 1.10 mmol, 0.18 g | C(#C)C1=CC=C(C=C1)OCCC | C11H12O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | bis-(triphenylphosphin)-palladiumdichlorid | 0.06 mmol, 0.04 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-{1-Methyl-2-[4-(4-propoxy-phenylethynyl)-phenyl]-ethyl}-acetamide | CC(CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCCC)NC(C)=O | C22H25NO2
